US07067506B2
N-Butyl-4-methoxy-3-(3-pyrazin-2-yl-ureido)-benzamide
To a stirred solution of 4-Methoxy-3-(3-pyrazin-2-yl-ureido)-benzoic acid (32 mg; 0.11 mmol) in N-methyl pyrrolidinone (1 mL) was added O-benzotrazol-1-yl-N,N,N′,N′-tetramethyl-uronium hexafluorophosphate (HBTU; 45 mg; 0.12 mmol), butyl amine (12 μL; 0.12 mmol), and diisopropylethylamine (35 μL; 0.20 mmol). The reaction was stirred at room temperature for 12 hours. The reaction was diluted with ethyl acetate (20 mL) and 10% aqueous sodium carbonate (20 mL) and stirred for 5 minutes. A precipitate formed which was filtered and dried under reduced pressure to yield an off white solid (49% yield).

reactant | 4-Methoxy-3-(3-pyrazin-2-yl-ureido)-benzoic acid | 0.11 mmol, 32 mg | COC1=C(C=C(C(=O)O)C=C1)NC(=O)NC1=NC=CN=C1 | C13H12N4O4
reactant | butyl amine | 0.12 mmol, 12 μL | C(CCC)N | C4H11N
reactant | diisopropylethylamine | 0.20 mmol, 35 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N-methyl pyrrolidinone | 1 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | sodium carbonate | 20 mL | C([O-])([O-])=O.[Na+].[Na+]
product | N-Butyl-4-methoxy-3-(3-pyrazin-2-yl-ureido)-benzamide | 49% yield | C(CCC)NC(C1=CC(=C(C=C1)OC)NC(=O)NC1=NC=CN=C1)=O | C17H21N5O3
